US07935699B2
(3-Amino-phenyl)-methanol (850 mg, 6.90 mmol) was suspended in tetrahydrofuran (8 mL) and di-tert-butyl dicarbonate (1.58 g, 7.25 mmol) was added. The solids quickly dissolved with stirring and the resulting solution was heated to 80° C. for 5 h and then at 25° C. for 16 h. The solution was concentrated in vacuo to give a thick yellow oil. Purification by ISCO flash column chromatography (Teledyne Isco RediSep Flash Column 120 g; 5% ethyl acetate/hexanes to 75% ethyl acetate/hexanes) afforded (3-hydroxymethyl-phenyl)-carbamic acid tert-butyl ester (1.67 g, >100%) as a clear oil: H1-NMR (400 MHz, CDCl3) δ 1.52 (9H, s), 2.05 (1H, bs), 4.64 (2H, s), 6.58 (1H, bs), 7.01 (1H, d, J=7.2 Hz), 7.20-7.25 (2H, m), 7.40 (1H, s).

reactant | (3-Amino-phenyl)-methanol | 6.90 mmol, 850 mg | NC=1C=C(C=CC1)CO | C7H9NO
reactant | di-tert-butyl dicarbonate | 7.25 mmol, 1.58 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | (3-hydroxymethyl-phenyl)-carbamic acid tert-butyl ester | 1.67 g, >100% | C(C)(C)(C)OC(NC1=CC(=CC=C1)CO)=O | C12H17NO3
